US09359381B2
Step 5: 1-((tert-Butyldimethylsilyl)oxy)-4-(4-chlorothiazol-2-yl)-4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)butan-2-yl methanesulfonate
Methanesulfonic anhydride (347 mg, 1.989 mmol) was added to a solution of 7-(4-((tert-butyldimethylsilyl)oxy)-1-(4-chlorothiazol-2-yl)-3-hydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (590 mg, 0.995 mmol) and triethylamine (0.416 mL, 2.98 mmol) in DCM (30 mL). The mixture was stirred at room temperature 20 mins. The reaction was quenched with saturated NaHCO3(aq) and extracted with DCM (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum to afford the title compound as a crude material which was used directly.

reactant | Methanesulfonic anhydride | 1.989 mmol, 347 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 7-(4-((tert-butyldimethylsilyl)oxy)-1-(4-chlorothiazol-2-yl)-3-hydroxybutyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.995 mmol, 590 mg | [Si](C)(C)(C(C)(C)C)OCC(CC(C=1SC=C(N1)Cl)C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F)O | C27H34ClFN4O4SSi
reactant | triethylamine | 2.98 mmol, 0.416 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-((tert-Butyldimethylsilyl)oxy)-4-(4-chlorothiazol-2-yl)-4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)butan-2-yl methanesulfonate | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)CC(C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC(=CC=C2)F)C=2SC=C(N2)Cl | C28H36ClFN4O6S2Si
